US06177440B1
A suspension of the {9-[(3-iodophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (15 mg, 0.03 mM) and 0.03 mL (0.03 mM) of 1 N NaOH in 5 mL of ethanol was stirred for 43 hours at 25° C., then cooled in an ice-bath. The resultant white precipitate was collected by filtration, washed with a small amount of EtOH, then dried in vacuo to afford 6.5 mg (43%) of the {9-[(3-iodophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, sodium salt as a white powder. 1H NMR (DMSO-d6) δ 7.6-7.0 (m, 11H), 6.6 (d, 1H, J=8 Hz), 5.7 (s, 2H), and 4.35 (s, 2H). IR (KBr, cm−1) 3456, 3416, 3335, 1735, 1638, 1617, 1580, 1499, 1452, 1431, 1431, 1329, 1255, 1157, 772, 764, and 717. MS (ES) m/e 407, 409, 411.

reactant | {9-[(3-iodophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.03 mM, 15 mg | IC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C23H19IN2O4
reactant | NaOH | 0.03 mM, 0.03 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | {9-[(3-iodophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid | 6.5 mg, 43% | IC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)O)C(N)=O | C22H17IN2O4
